US08486962B2
To a solution of N-benzyl-N-methyl-3-nitro-benzamide (320 mg, 1.18 mmol) in ethyl acetate (10 ml) was added stannous chloride dihydrate (1.34 g, 5.95 mmol) and then stirred for 3 hr at room temperature. The reaction mixture was washed with dilute sodium hydroxide solution, then water. The organic layer was separated, dried and then evaporated to give 3-amino-N-benzyl-N-methyl-benzamide (270 mg, 95%) as solid.

reactant | N-benzyl-N-methyl-3-nitro-benzamide | 1.18 mmol, 320 mg | C(C1=CC=CC=C1)N(C(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C15H14N2O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-amino-N-benzyl-N-methyl-benzamide | 270 mg, 95% | NC=1C=C(C(=O)N(C)CC2=CC=CC=C2)C=CC1 | C15H16N2O
